US05821261
Step D: (4S)-1-(tert-Butyloxycarbonyl)-4-(Methanesulfonyl-oxymethyl)-L-Proline tert-Butyl Ester
To a solution of (4S)-1-(tert-butyloxycarbonyl)-4-hydroxymethyl-L-proline tert-butyl ester (364 mg, 1.21 mmol) in pyridine (2 mL) cooled to 0° C. was added methanesulfonyl chloride (0.19 mL, 2.42 mmol). The reaction mixture was stirred for 2 hours at ice temperature, diluted with ethyl acetate (100 mL), washed with 1M sodium hydrogencarbonate solution, 1M citric acid, water, saturated brine solution, dried (Na2 SO4), and evaporated. The crude product was purified by flash silica gel chromatography eluting with 20% acetone/hexane; yield 437 mg (95%).

reactant | (4S)-1-(tert-butyloxycarbonyl)-4-hydroxymethyl-L-proline tert-butyl ester | 1.21 mmol, 364 mg | C(C)(C)(C)OC([C@H]1N(C[C@H](C1)CO)C(=O)OC(C)(C)C)=O | C15H27NO5
reactant | methanesulfonyl chloride | 2.42 mmol, 0.19 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (4S)-1-(tert-Butyloxycarbonyl)-4-(Methanesulfonyl-oxymethyl)-L-Proline tert-Butyl Ester | C(C)(C)(C)OC([C@H]1N(C[C@H](C1)COS(=O)(=O)C)C(=O)OC(C)(C)C)=O | C16H29NO7S
